US07858640B2
[8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid
A mixture of [8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic acid methyl ester (0.20 g), methanol (4.0 mL) and 1.0 M aqueous sodium hydroxide solution (2.0 mL) was stirred at room temperature for 5 hours. The pH of the solution was adjusted to 5 by the addition of formic acid and the solvent removed under reduced pressure. Purification of the residue by preparative reverse-phase HPLC using a gradient of acetonitrile in water (40% to 85% of organic modifier) gave title compound as a pale yellow solid, 0.034 g.

reactant | [8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic acid methyl ester | 0.20 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)S(=O)(=O)C)CC)=O | C24H26ClNO5S
reactant | methanol | 4.0 mL | CO | CH4O
reactant | sodium hydroxide | 1.0 M, 2.0 mL | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | [8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)CC)CC1=CC=C(C=C1)S(=O)(=O)C)CC)OCC(=O)O | C23H24ClNO5S
